US04146631
3-Acetyl-2-hydroxy-N-(tetrazol-5-yl)benzamide (6.0 g) was dissolved in concentrated sulphuric acid (30 ml). The solution was then cooled to 0° C. and, with stirring, was treated with concentrated nitric acid (density 1.42; 1.62 ml) at such a rate that the temperature did not exceed 10° C. The mixture was left to stand at between 0° and 5° C. for 20 hours, and was then poured into a mixture of ice and water (300 ml). The precipitated solid was collected, washed with water, and recrystallized from 98% w/w formic acid to give 3-acetyl-2-hydroxy-5-nitro-N-tetrazol-5-yl)benzamide, m.p. 255° C. (with decomposition).

reactant | 3-Acetyl-2-hydroxy-N-(tetrazol-5-yl)benzamide | 6.0 g | C(C)(=O)C=1C(=C(C(=O)NC2=NN=NN2)C=CC1)O | C10H9N5O3
reactant | nitric acid | 1.62 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 300 ml | O | H2O
solvent | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
